*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/2.20e-04[uF]/50[V]
* Murata P/N :GGM155R71H221KA37
* Property : C = 2.20e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GGM155R71H221KA37 Port1 Port2
C01 Port1 N01 2.20e-10
R01 Port1 N01 1.00e+10
L02 N01 N02 1.60e-10
R03 N02 N03 4.82e-01
C04 N03 N04 1.27e-08
R04 N03 N04 2.00e+05
C05 N04 N05 4.07e-08
R05 N04 N05 4.69e+03
C06 N05 N06 3.25e-08
R06 N05 N06 5.03e+02
C07 N06 N07 2.65e-08
R07 N06 N07 5.31e+01
C08 N07 N08 2.30e-08
R08 N07 N08 7.67e+00
C09 N08 N09 1.12e-08
R09 N08 N09 2.58e+00
C10 N09 N10 2.36e-09
R10 N09 N10 1.23e+00
C11 N10 N11 1.00e-09
R11 N10 N11 4.55e-01
C12 N11 N12 9.23e-11
L12 N11 N12 3.26e-11
R12 N11 N12 6.01e-01
C13 N12 Port2 1.90e-12
L13 N12 Port2 1.80e-10
R13 N12 Port2 1.76e+01
.ENDS GGM155R71H221KA37
